US08378118B2
Step-II: Preparation of 6-[4-(7-Methoxy-6-methyl-indan-4-ylmethyl)-3,5-dimethyl-pyrazol-1-ylmethyl]-2-methyl-3H-pyrimidin-4-one
To the solution of 4-[4-(7-Methoxy-6-methyl-indan-4-ylmethyl)-3,5-dimethyl-pyrazol-1-yl]-3-oxo-butyric acid ethyl ester (1.0 gm, 0.0025 mole) in Ethanol (60 ml), Acetamidine hydrochloride (0.71 gm, 0.0075 mole) was added. Further to this, Sodium ethoxide (0.51 gm, 0.0075 mole) was added at 5-10° C. and then stirred at 70-75° C. for 2 hours. The Ethanol was distilled under vacuum and residue was partitioned between Ethyl acetate (100 ml) and water (100 ml). Further aqueous layer was extracted with Ethyl acetate (2×100 ml). The combined volume of Ethyl acetate layer was reduced to 20 ml and then filtered to give 800 mg of desired product.

reactant | 4-[4-(7-Methoxy-6-methyl-indan-4-ylmethyl)-3,5-dimethyl-pyrazol-1-yl]-3-oxo-butyric acid ethyl ester | 0.0025 mole, 1.0 gm | C(C)OC(CC(CN1N=C(C(=C1C)CC1=C2CCCC2=C(C(=C1)C)OC)C)=O)=O | C23H30N2O4
reactant | Acetamidine hydrochloride | 0.0075 mole, 0.71 gm | Cl.C(C)(=N)N
reactant | Sodium ethoxide | 0.0075 mole, 0.51 gm | [O-]CC.[Na+]
solvent | Ethanol | 60 ml | C(C)O | C2H6O
product | 6-[4-(7-Methoxy-6-methyl-indan-4-ylmethyl)-3,5-dimethyl-pyrazol-1-ylmethyl]-2-methyl-3H-pyrimidin-4-one | 800 mg, Yield: 81.3% | COC=1C(=CC(=C2CCCC12)CC=1C(=NN(C1C)CC1=CC(NC(=N1)C)=O)C)C | C23H28N4O2
